US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg) is dissolved in toluene (2 ml), then thereto are added 2-tributylstannylpyridine (105 μl) and tetrakis(triphenylphosphine)palladium (16 mg), and the mixture is stirred at 100° C. under nitrogen flow overnight. After allowing to cool to room temperature, 10% aqueous potassium fluoride solution is added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer is washed with a 10% aqueous potassium fluoride solution and a saturated brine successively, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=4:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(pyridin-2-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (138 mg). MS (m/z): 661 [M+H]+

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)I)CC | C27H26F6IN5O3
reactant | 2-tributylstannylpyridine | 105 μl | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(pyridin-2-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 138 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NC=CC=C1)CC | C32H30F6N6O3
